US05576322
4-Chloro-6-cyanoquinazoline
A mixture comprising 2 g of 4-hydroxy-6-carbamoylquinazoline, 30 ml of thionyl chloride and 60 ml of phosphorus oxychloride was heated under reflux for 20 hours. The reaction mixture was concentrated under a reduced pressure and the obtained residue was dissolved in 100 ml of ethyl acetate. The obtained solution was washed with water (150 ml), dried over magnesium sulfate and concentrated under a reduced pressure. The obtained residue was introduced into a silica gel column, followed by eluting with ethyl acetate and acetone to give 800 mg of the title compound.

reactant | 4-hydroxy-6-carbamoylquinazoline | 2 g | OC1=NC=NC2=CC=C(C=C12)C(N)=O | C9H7N3O2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-cyanoquinazoline | 800 mg | ClC1=NC=NC2=CC=C(C=C12)C#N | C9H4ClN3
